US08012956B2
To a solution of 4-tert-butyl 1-methyl 2-nitroterephthalate (prepared according to Gao, Y. et. al WO2001070737) (2.15 g, 7.64 mmol) in tetrahydrofuran (30 mL) was added a 1M solution of vinylmagnesium bromide in tetrahydrofuran (23.0 mL) at −40° C., followed by stirring at room temperature for 18 hours. The reaction mixture was quenched by the addition of a solution of 1 M aqueous ammonium chloride, and the organic portion of the solvent was evaporated. The resulting material was partitioned with ethyl acetate (300 mL), and the organic layer was separated then washed with 10% aqueous citric acid (100 mL) and brine, dried over sodium sulfate, filtered and the solvent was concentrated. The resulting crude material was purified by column chromatography (hexane:ethyl acetate 9:1 to 7:3 eluent) to give 4-tert-butyl 7-methyl 1H-indole-4,7-dicarboxylate (0.58 g, 27%). 1H NMR (400 MHz, CDCl3): 10.00 (bs, 1H), 7.88 (dd, 2H), 7.43 (m, 1H), 7.19 (m, 1H), 4.00 (s, 3H), 1.66 (s, 9H). MS (EI) for C15H17NO4: 274 (M−H).

reactant | 4-tert-butyl 1-methyl 2-nitroterephthalate | 7.64 mmol, 2.15 g | [N+](=O)([O-])C1=C(C(=O)OC)C=CC(=C1)C(=O)OC(C)(C)C | C13H15NO6
reactant | vinylmagnesium bromide | C(=C)[Mg]Br
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 23.0 mL | O1CCCC1 | C4H8O
product | 4-tert-butyl 7-methyl 1H-indole-4,7-dicarboxylate | 0.58 g, 27% | N1C=CC=2C(=CC=C(C12)C(=O)OC)C(=O)OC(C)(C)C | C15H17NO4
